US08729078B2
In a 25 mL round-bottomed flask, 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(1,2-dihydroxyethyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (14 mg, 26.5 μmol, Eq: 1.00) and [hydrogen bis(dimethylphosphinito-kP)]platinum (II) (373 μg, 0.870 μmol, Eq: 0.0328) were combined with Ethanol (200 μl) and Water (200 μl) to give a colorless solution. The reaction mixture was heated to 45° C. and stirred for 1 h. The crude reaction mixture was concentrated in vacuo. Mixture was diluted with acetonitrile and water and filtered. The resultant filtrate is lyophilized to give 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-(1,2-dihydroxy-ethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide (11.2 mg, 77%, [M+H]+ 546).

reactant | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-(hydroxymethyl)phenyl)-6-(1,2-dihydroxyethyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 26.5 μmol, 14 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)C(CO)O)C#N)CO | C29H26FN5O4
reactant | Ethanol | 200 μl | C(C)O | C2H6O
solvent | Water | 200 μl | O | H2O
product | 1-[3-(6-tert-butyl-8-fluoro-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-6-(1,2-dihydroxy-ethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid amide | 11.2 mg, 77% | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C=2C1=NC(=CC2)C(CO)O)C(=O)N)CO | C29H28FN5O5
